US06855730B2
5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (560 mg), 5-methyl-2-oxindole (300 mg), and piperidine (4 drops) in ethanol (4 mL) were stirred at 90° C. for 2 hours. Potassium hydroxide (537 mg) was added to the mixture and it was then stirred at 95° C. for an additional hour. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 496 mg of 4-(2-carboxyethyl)-3-methyl-5-(5-methyl -2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid.

reactant | 5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 560 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 5-methyl-2-oxindole | 300 mg | CC=1C=C2CC(NC2=CC1)=O | C9H9NO
reactant | Potassium hydroxide | 537 mg | [OH-].[K+]
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-(2-carboxyethyl)-3-methyl-5-(5-methyl -2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 496 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)C)=O)C(=O)O)C | C19H18N2O5
